US09290517B2
(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-(2-hydroxyethyl)-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol
A stirred suspension of 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde (12.9 mg, 0.026 mmol) in methanol (0.5 ml) was cooled to 0° C. in an ice bath. Sodium boro-hydride (3.5 mg, 0.093 mmol) was added to the reaction mixture, resulting in gas evolution. The reaction mixture was allowed to warm to room temperature overnight. The next day, the reaction mixture was directly purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C26H24ClN3O5 493.14 observed m/e: 494.24 (M+H)+ (Rt 1.17/2 min); 1H NMR δ (ppm) (CD3OD): 7.97 (s, 1H), 7.74-7.77 (m, 4H), 7.71 (d, J=7.7 Hz, 2H), 7.48 (t, J=7.6 Hz, 2H), 7.38 (t, J=7.4 Hz, 1H), 5.58 (qt, J=5.3 Hz, J=10.6 Hz, 1H), 4.98 (t, J=5.3 Hz, 1H), 4.29 (d, J=4.9 Hz, 1H), 4.15-4.20 (m, 2H), 3.77-3.84 (m, 2H), 3.71 (abqt, J=8.7 Hz, J=21.2 Hz, 2H), 1.85 (t, J=6.6 Hz, 2H).

reactant | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde | 0.026 mmol, 12.9 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC=O | C26H22ClN3O5
reactant | Sodium boro-hydride | 0.093 mmol, 3.5 mg | [BH4-].[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
product | (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-(2-hydroxyethyl)-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CCO | C26H24ClN3O5
